US04110533
(ci) A suspension of 11.75 g of 93 per cent strength (corresponding to 10.93 g of 100% strength) of 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid and 13.4 ml (12.73 g) of N,N-dimethylaniline in 47 ml of absolute methylene chloride (distilled over P2O5) is treated, at +20° C, under nitrogen, with 3.6 ml (3.87 g) of dimethyldichlorosilane and the mixture is then stirred for 30 minutes at the same temperature. The solution, which is now clear, is cooled to -18°/-19° and 7.8 g of solid phosphorus pentachloride are added, the internal temperature rising to -10°. After stirring for 30 minutes in a bath at -20°, the clear solution is added dropwise, in the course of about 7 minutes, to a mixture, cooled to -20°, of 47 ml of n-butanol (anhydrous, dried over Sikkan) and 4.4 ml (4.18 g) of dimethylaniline. The internal temperature rises to -8°. The mixture is stirred for a further 30 minutes, initially in a bath at -20° and subsequently in an ice bath (0°), so that a final internal temperature of -10° is reached. A mixture of 47 ml of dioxane and 1.6 ml of water is added dropwise at this temperature (time taken, about 5 minutes). The product thereupon crystallises out slowly. After stirring for a further 10 minutes, the pH of the mixture, in an ice bath, is brought to a value of between 2.2 and 2.4, and kept at this value, by adding about 9.5 ml of tri-n-butylamine, in portions, in the course of about 1 hour (the first 3 ml are added in the first 5 minutes). The product is then filtered off, washed, in portions, with about 30 ml of dioxane and then with about 15 ml of methylene chloride and crystalline 7β-amino-3-methoxy-ceph-3-em-4-carboxylic acid hydrochloride dioxanate is thus obtained; melting point above 300° C; UV spectrum (in 0.1 N sodium bicarbonate): λmax = 270 mμ (ε= 7,600); IR spectrum (nujol): characteristic bands at 5.62; 5.80; 5.88; 6.26; 6.55; 7.03; 7.45; 7.72; 7.96; 8.14; 8.26; 8.45; 8.64; 8.97; 9.29; 10.40 and 11.47 mμ; [α]D20 = +134° ± 1° (c = 1; 0.5 N sodium bicarbonate solution).

reactant | 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid | 10.93 g | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C16H16N2O6S
reactant | N,N-dimethylaniline | 13.4 ml, 12.73 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | dimethyldichlorosilane | 3.6 ml, 3.87 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | dimethylaniline | 4.4 ml, 4.18 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | water | 1.6 ml | O | H2O
solvent | methylene chloride | 47 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 47 ml | O1CCOCC1 | C4H8O2
solvent | n-butanol | 47 ml | C(CCC)O | C4H10O
product | 7β-amino-3-methoxy-ceph-3-em-4-carboxylic acid hydrochloride dioxanate | O1C(COCC1)C(=O)O.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | InChI=1S/C8H10N2O4S.C5H8O4.ClH/c1-14-3-2-15-7-4(9)6(11)10(7)5(3)8(12)13;6-5(7)4-3-8-1-2-9-4;/h4,7H,2,9H2,1H3,(H,12,13);4H,1-3H2,(H,6,7);1H/t4-,7-;;/m1../s1
